US04433160
Under a nitrogen atmosphere, 0.3 ml of ethyl bromide was added to a mixture of 0.97 g of magnesium turning for Grignard reaction and 2 ml of THF. After the starting of the reaction, a solution composed of 6.01 g of p-chloroprenylbenzene and 1 ml of THF was added dropwise while maintaining the temperature at 115° to 130° C. After the addition, THF was added further as required, and the mixture was stirred at 110° to 120° C. for 4 hours. After cooling, 20 ml of THF was further added, and the resulting reaction mixture was added dropwise to a solution composed of 5.43 g of ethyl α-bromopropionate, 0.016 g of nickel chloride and 5 ml of THF. After the addition, the mixture was further stirred for 1 hour, and an aqueous solution of ammonium chloride was added. The mixture was extracted with diethyl ether. The ethereal extract was washed with an aqueous solution of sodium chloride, dried, concentrated and distilled to give 3.62 g (yield 49.1%) of ethyl α-(p-prenylphenyl)propionate.

reactant | ethyl bromide | 0.3 ml | C(C)Br | C2H5Br
reactant | magnesium | 0.97 g | [Mg] | Mg
reactant | p-chloroprenylbenzene | 6.01 g | ClC1=CC=C(C=C1)CC=C(C)C | C11H13Cl
reactant | ethyl α-bromopropionate | 5.43 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | nickel chloride | 0.016 g | [Ni](Cl)Cl
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | ethyl α-(p-prenylphenyl)propionate | 3.62 g, yield 49.1% | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)OCC)C | C16H22O2
